US04415572
To a mixture of 1.2 g of 6-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium carbonate and 20 ml of hexamethylphosphoric triamide was added 651 mg of 4-hydroxybenzyl chloride and the mixture was stirred at 90° C. for 2.5 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water, the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography to give 0.3 g of 6-[4-(4-hydroxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril.

reactant | 6-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C=1C=C2CCC(NC2=CC1)=O | C13H17N3O
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | hexamethylphosphoric triamide | 20 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
reactant | 4-hydroxybenzyl chloride | 651 mg | OC1=CC=C(CCl)C=C1 | C7H7ClO
solvent | water | O | H2O
product | 6-[4-(4-hydroxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 0.3 g | OC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C20H23N3O2
